US06020345
Stage 4: (4-aminomethyl-4-fluoropiperidin-1-yl)-(3-chloro-4-fluorophenyl)methanone
0.10 g of 2-[l-(3-chloro-4-fluorobenzoyl)-4-fluoropiperidin-4-yl-methyl]isoindole-1,3-dione (0.238 mmol) and 0.50 ml of ethanolamine (8.28 mmol) are mixed and the solution obtained is heated at 55° C. under a nitrogen atmosphere for 2 hours. The mixture is poured into ice-cold water and then extracted with chloroform. The organic phase is washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, filtered and the solvent evaporated off. 0.06 g of the title product is obtained in the form of a colorless oil which is used in the next stage without further purification.

reactant | 2-[l-(3-chloro-4-fluorobenzoyl)-4-fluoropiperidin-4-yl-methyl]isoindole-1,3-dione | 0.238 mmol, 0.10 g | ClC=1C=C(C(=O)N2CCC(CC2)(F)CN2C(C3=CC=CC=C3C2=O)=O)C=CC1F | C21H17ClF2N2O3
reactant | ethanolamine | 8.28 mmol, 0.50 ml | C(O)CN | C2H7NO
product | (4-aminomethyl-4-fluoropiperidin-1-yl)-(3-chloro-4-fluorophenyl)methanone | 0.06 g | NCC1(CCN(CC1)C(=O)C1=CC(=C(C=C1)F)Cl)F | C13H15ClF2N2O
